US04551532
3,6-Dioxaoctadecyl 2-thiazolioethyl phosphate
3,6-Dioxaoctadecyl 2-bromoethyl phosphate (2.5 g) and thiazole (5.0 g) are mixed and heated at 60° C. The excess thiazole is removed under reduced pressure, silver carbonate and methanol are added to the residue, and the mixture is heated under reflux. The insolubles are filtered off, the filtrate is concentrated to dryness, and the residue is purified twice by silica gel column chromatography (developing solvent: methanol; chloroform-methanol-water). There is obtained 0.78 g of the title compound.

reactant | 3,6-Dioxaoctadecyl 2-bromoethyl phosphate | 2.5 g | P(=O)(OCCOCCOCCCCCCCCCCCC)(OCCBr)[O-]
reactant | thiazole | 5.0 g | S1C=NC=C1 | C3H3NS
product | 3,6-Dioxaoctadecyl 2-thiazolioethyl phosphate | 0.78 g | P(=O)(OCCOCCOCCCCCCCCCCCC)(OCCC=1SC=C[NH+]1)[O-] | C21H40NO6PS
